US04349674
3-Methyl-2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylthio)-quinoxaline, hydrochloride
2-Chloro-3-methylquinoxaline (5.36 g., 0.03 mole) was dissolved in 150 ml. methanol, treated with Norit and filtered. The filtrate was added to 3.91 g. (0.03 mole) of tetrahydro-1,3-diazepine-2-thione. The mixture was stirred in a waterbath heated at 50° C. for 2 hours. The resulting orange solution was concentrated to a volume of 75 ml., then diluted with 150 ml. acetone. The mixture was chilled and 2.5 g. of a solid collected. An additional 3.2 g. of solid was recovered from the mother liquor. The two solids were combined and recrystallized from methanolacetone to give the product as 1.15 g. (12.4%), white solid, m.p. 170°-173° C. (dec)

reactant | 2-Chloro-3-methylquinoxaline | 0.03 mole, 5.36 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | Norit | C | CH4
reactant | tetrahydro-1,3-diazepine-2-thione | 0.03 mole | N1C(NCCC=C1)=S | C5H8N2S
solvent | methanol | CO | CH4O
product | 3-Methyl-2-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylthio)-quinoxaline, hydrochloride | Cl.CC=1C(=NC2=CC=CC=C2N1)SC=1NCCCCN1 | InChI=1S/C14H16N4S.ClH/c1-10-13(19-14-15-8-4-5-9-16-14)18-12-7-3-2-6-11(12)17-10;/h2-3,6-7H,4-5,8-9H2,1H3,(H,15,16);1H
